US06444668B1
6-(3-Bromo-5fluorophenyl)-1,4,4-trimethyl-1,4-dihydrobenzo[d][1,3]oxazin-2-one
To a solution of 6-(3-bromo-5-fluorophenyl)-4,4-dimethyl-1,4-dihydrobenzo[d][1,3]oxazin-2-one (0.34 g, 0.99 mmol) in dry DMF (10 mL) was added under nitrogen at room temperature sodium hydride (80 mg, 2.0 mmol) in one portion. The mixture was stirred at ambient temperature for 30 minutes, treated with iodomethane (1 mL, excess), and stirred for 2 hours. To the reaction mixture was added a cold saturated ammonium chloride solution (30 mL) and the white precipitate obtained was collected on a filter, washed with the distilled water to afford the title compound as a white solid (0.31 g, 87%): mp 157-158° C.; 1H-NMR (DMSO-d6) δ7.83 (s, 1H), 7.76 (dd, 1H, J=8.5, 2.0 Hz), 7.67 (m, 2H), 7.53 (dt, 1H, J=8.3, 1.9 Hz), 7.18 (d, 1H, J=8.5 Hz), 3.33 (s, 3H), 1.67 (s, 6H); 19F-NMR (DMSO-d6) δ−111.01 (m, 1F); MS (APCI) m/z 364 ([M+H]+, 96%), 366 ([M+H]+, 100%).

reactant | 6-(3-bromo-5-fluorophenyl)-4,4-dimethyl-1,4-dihydrobenzo[d][1,3]oxazin-2-one | 0.99 mmol, 0.34 g | BrC=1C=C(C=C(C1)F)C1=CC2=C(NC(OC2(C)C)=O)C=C1 | C16H13BrFNO2
reactant | sodium hydride | 2.0 mmol, 80 mg | [H-].[Na+]
reactant | iodomethane | 1 mL | IC | CH3I
reactant | ammonium chloride | 30 mL | [Cl-].[NH4+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 6-(3-Bromo-5fluorophenyl)-1,4,4-trimethyl-1,4-dihydrobenzo[d][1,3]oxazin-2-one | 0.31 g, 87% | BrC=1C=C(C=C(C1)F)C1=CC2=C(N(C(OC2(C)C)=O)C)C=C1 | C17H15BrFNO2
